US04248859
3,3,7-Trimethylcycloheptanecarbonyl chloride, prepared from the product of Part A by the method of Example 26 Part B, (0.5 g. 0.0025 mole) in 10 ml methylene dichloride was added to a stirred solution of 2-amino-2,2-dimethylethanol (0.5 g) in 50 ml methylene dichloride. After 3 hours the solution was washed with 2 N HCl, then with NaHCO3 solution and then dried (MgSO4). Removal of the solvent left an oil which was distilled to yield N-1',1'-dimethyl-2'-hydroxyethyl)-3,3,7-trimethylcycloheptanecarboxamide, bp. 135°/0.015 mm.

reactant | 3,3,7-Trimethylcycloheptanecarbonyl chloride | CC1(CC(C(CCC1)C)C(=O)Cl)C | C11H19ClO
reactant | 2-amino-2,2-dimethylethanol | 0.5 g | NC(CO)(C)C | C4H11NO
solvent | methylene dichloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene dichloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3,3,7-trimethylcycloheptanecarboxamide | CC1(CC(C(CCC1)C)C(=O)N)C | C11H21NO
